US07884109B2
A solution of 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one (112 mg) in DCM was treated with excess Boc2O and triethylamine until TLC analysis indicated that the starting material had been consumed (4 hours). The mixture was washed with brine, dried over Na2SO4, and concentrated. The resulting residue was dissolved in THF, treated with excess iodomethane, and then NaH (10 equivalents). The mixture was stirred for 6 hours and quenched by the addition of saturated ammonium chloride. The intermediate was extracted with EtOAc, dried, and concentrated. Silica gel chromatography (70:25:5 DCM:EtOAc:MeOH) provided pure tert-butyl 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydropurine-7-carboxylate, which was deprotected in 1:1 TFA/DCM for 16 hours and concentrated in vacuo to obtain the title compound. The HCl salt was obtained by treating a methanolic solution (10 mL) with 0.5 mL of concentrated HCl followed by solvent evaporation. 1H-NMR (300 MHz, CDCl3) δ 9.0 (s, 1H), 8.3 (dd, 1H), 8.1 (s, 1H), 7.6 (dd, 1H), 7.1 (td, 1H), 4.4 (m, 1H), 3.8 (m, 1H), 2.5 (m, 2H), 2.1 (m, 2H), 1.9 (m, 2H), 1.5 (m, 2H).

reactant | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 112 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CC[C@H](CC2)O)=O)C1 | C18H17FN6O2
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | NaH | 10 equivalents | [H-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydropurine-7-carboxylate | FC=1C=CC2=C(N(C=N2)C2=NC=C3N(C(N(C3=N2)[C@@H]2CC[C@H](CC2)OC)=O)C(=O)OC(C)(C)C)C1 | C24H27FN6O4
